Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
___ Complaint:
Anterior ST Elevation Myocardial Infarction
 
Major Surgical or Invasive Procedure:
Intubation
Cypher Stent to proximal LAD
Intra-aortic balloon pump insertion, and removal
 

 
History of Present Illness:
The patient is a ___ y.o. male w/ pmh CAD, s/p inferior STEMI in 
___ treated with BMS to left CX with known occluded RCA, who 
awoke from sleep at 1am with with crushing substernal chest 
pain. The patient called EMS, was transported to ___ 
___, where ___ was found to have an anterior STEMI. ___ V-Fib 
arrested in the ED, was defibrillated, given amiodarone 300mg, 
placed on lidocaine gtt, and intubated. Total code time was 
___ minutes. ___ was transferred to ___ on lidocaine gtt.
On arrival to ___, ___ received aspirin and plavix, and was 
started on heparin and integrellin. ___ was hypotensive and so 
was started on a dopamine drip. Left heart cath at ___ 
revealed occlusion of ___ LAD, LAD w/ 40-50% occlusion, RCA 
with total occlusion and with left to right collateralls. ___ 
received a cypher stent to the LAD. The patient had a swan 
placed which revealed elevated wedge pressures to 26. ___ was 
given lasix 80mg IV. Patient also became acidotic 7.01 w/ 
elevated CO2 73. Given his proximal LAD lesion, along with 
marginal blood pressures on dopamine, a balloon pump 40cc was 
inserted 1:1.
.
patient is intubated and unable to provide ROS.
Cardiac review of systems is notable for chest pain
 
Past Medical History:
PAST MEDICAL HISTORY:
1. CARDIAC RISK FACTORS:: Diabetes, +Dyslipidemia, +Hypertension
2. CARDIAC HISTORY:
-CABG: N/A
-PERCUTANEOUS CORONARY INTERVENTIONS:
___ to LCx, rotablator and angioplasty of diagonal
___ to mid LCx Bx Velocity
-PACING/ICD:
3. OTHER PAST MEDICAL HISTORY:
Right toe open fracture.
.
 
Social History:
___
Family History:
unable to obtain
 
Physical Exam:
VS: T=98.0 BP=89/72 HR=98 RR=...O2 sat=96% FiO2
GENERAL: WDWN male intubated.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
NECK: Supple with JVP of 10 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. crackles b/l.
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES:
Right: Carotid 2+ Femoral 2+ DP 1+ ___ 1+
Left: Carotid 2+ Femoral 2+ DP 1+ ___ 1+
 
Pertinent Results:
Admission labs:

___ 03:45AM   WBC-26.9*# RBC-5.25 HGB-16.5 HCT-48.2 MCV-92 
MCH-31.5 MCHC-34.3 RDW-13.4
___ 03:45AM   GLUCOSE-375* UREA N-24* CREAT-1.8* 
SODIUM-132* POTASSIUM-3.6 CHLORIDE-99 TOTAL CO2-19* ANION GAP-18
___ 04:11AM   TYPE-ART TIDAL VOL-600 PEEP-10 O2-100 
PO2-119* PCO2-60* PH-7.11* TOTAL CO2-20* BASE XS--11 AADO2-550 
REQ O2-89 INTUBATED-INTUBATED

Discharge Labs: ___
wbc 11.2, Hct 40.6, plts 243
Na 139, K 3.6, Cl 107, HCO3 27, BUN 27, Cr 1.3, glu 109

Cardiac Enzyme trend:
___ 03:45AM   CK(CPK)-223*
___ 03:45AM   CK-MB-15* MB INDX-6.7*
___ 06:16AM   CK-MB-239* MB INDX-11.1* cTropnT-5.15*
___ 06:16AM BLOOD CK(CPK)-2153*
___ 03:01AM BLOOD CK(CPK)-2742*
___ 05:01AM BLOOD CK(CPK)-332*

EKG ___:

Sinus rhythm. Left atrial enlargement. Low limb lead voltage. 
Prior
anteroseptal myocardial infarction. Compared to the previous 
tracing
of ___ the rate has increased. There is variation in 
precordial
lead placement. The previously recorded early precordial R wave 
transition is
no longer in evidence. There are now Q waves in leads V1-V2 
consistent with
interim anteroseptal infarction. The limb lead voltage has 
diminished.
The rate has increased and there are ST-T wave changes. Followup 
and clinical
correlation are suggested.

Cardiac Catheterization ___:

1. Selective coronary angiography of this right dominant system 
revealed
3 vessel disease with an acute proximal LAD lesion.  The LMCA 
had no
angiographically apparent flow limiting disease.  The LAD had an 
acute
lesion of 99% stenosis in the proximal segment.  The first 
diagonal had
80% stenosis.  The LCX had 40% hazy stenosis at the mid segment. 
 The
RCA was chronically totally occluded at the proximal segment and 
was
filled by left to right collaterals.
2. Resting hemodynamics demonstrated markedly elevated right 
sided
filling pressures (RVEDP 26 mm Hg) and markedly elevated left 
sided
filling pressures (PCWP 25 mm Hg).  There was mild PA 
hypertension (PA
40/27 mm Hg).
3.
4.  Stenting of very proximal LAD with Cypher 3x18mm stent 
posted to
3.25mm in setting of STEMI.
5.  IABP inserted for cardiogenic shock.
 
FINAL DIAGNOSIS:    
1. Three vessel coronary artery disease.
2. Mild diastolic ventricular dysfunction.
3. Acute anterior myocardial infarction, managed by acute ptca.
 PTCA of  vessel.

Transthoracic Echo ___:

The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is 
moderate regional left ventricular systolic dysfunction with 
moderate to severe hypokinesis of the septum. The anterior wall 
may be hypokinetic also. The inferolateral wall may be slightly 
hypokinetic but suboptimal image quality limits certainty. The 
right ventricular cavity is dilated. The aortic root is mildly 
dilated at the sinus level. The number of aortic valve leaflets 
cannot be determined. There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. The 
pulmonary artery systolic pressure could not be determined. 
There is an anterior space which most likely represents a fat 
pad.

IMPRESSION: Symmetric LVH with moderate to severe septal 
hypokinesis. The anterior wall is probably hypokinetic but is 
not well seen. The RV is dilated and probably hypokinetic but 
image quality limits interpretation. No significant valvular 
abnormality seen. Large anterior fat pad. 

 
Brief Hospital Course:
___ w/ pmh CAD p/w chest pain, found to have anterior STEMI, 
complicated by V-fib arrest s/p defibrillation, now s/p cypher 
stent to ___ LAD.
.  
# ST Elevation Myocardial Infarction: Cardiac catheterization 
revealed a totally occluded RCA with Left to right collaterals, 
99% stenosis of proximal LAD, and 40% stenosis of LCx.  ___ 
receiving a cypher stent to his proximal LAD and was admitted to 
the CCU.  During catheterization ___ was hypotensive, requiring a 
dopamine drip and an intraaortic balloon pump. ___ was intubated 
prior to arrival at ___.  During the catheterization ___ was 
vomiting and concern was raised for aspiration. ___ was initially 
acidotic, with a pH of 7.01 and elevated lactate to 2.9. ___ was 
started on aspirin and plavix and atorvastatin, and his IV 
heparin was continued while ___ was still on the IABP. ___ 
underwent the ___ cooling protocol as well. ___ was also 
started on an insulin drip to keep his blood glucose under 180.  
Echo on ___ showed an LVEF of 30% with septal and anterior 
hypokinesis.  His RV was also dilated. After several days his 
blood pressure stabilized and his dopamine was discontinued on 
___.  His balloon pump was removed ___.  ___ was extubated on 
___. ___ was started on carvedilol and lisinopril, which were 
initially held given his hypotension. His carvedilol was 
switched to metoprolol and ___ was found to have better rate 
control with metoprolol. His enzymes were trended and found to 
peak at CK 2742, troponin 5.15.  Given his septal and anterior 
wall hypokinesis, the patient was bridged with enoxaparin and 
started on coumadin. ___ was started on 5mg coumadin daily from 
___ to ___, his INR increased from 1.3 to 2.5.  ___ was then 
given 3mg of coumadin on ___ when his INR was 3.6.  His coumadin 
was held on ___.  The plan was to continue anticoagulation with 
goal INR ___ for ___ months and to re-evaluate in 1 month with 
repeat TTE and cardiac MR. ___ will be discharged home on the 
___ monitor for two weeks, with results followed up 
by Dr. ___ at ___. 

By discharge, his systolic blood pressure was ranging between 
100-140, and primarily in the 120s, and heart rate ranging from 
60-85.

The patient was instructed to visit his PCP ___ ___, and ___ to 
have labs drawn to monitor his INR while on coumadin.

___ was also instructed to follow-up with Dr. ___ from 
the department of Cardiology and Electrophysiology after his 
Cardiac MRI is performed.  

The patient was also completed a 7 day course of levofloxacin 
and flagyl for empiric coverage of aspiration pneumonia. 

 
Medications on Admission:
aspirin
metoprolol
atorvastatin
 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
4. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Toprol XL 100 mg Tablet Sustained Release 24 hr Sig: Three 
(3) Tablet Sustained Release 24 hr PO once a day.
Disp:*90 Tablet Sustained Release 24 hr(s)* Refills:*2*
6. Outpatient Lab Work
___, PTT, INR drawn three times per week.
Results should be sent to Dr. ___ 
___ ___
Tel# ___
7. Warfarin 1 mg Tablet Sig: Two (2) Tablet PO once daily .
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
primary:  ST-elevation myocardial infarction
secondary:  hyperlipidemia, hypertension

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital because you had a heart 
attack.  A stent was placed in one of the arteries to your 
heart.  Medications were started to decrease your risk for 
having heart problems in the future.

The following medications were changed in the hospital:
Lisinopril was started
Coumadin was started
Clopidogrel was started
Metoprolol was increased
Atorvastatin was increased

Please continue to take your medications as prescribed.

Please do not take coumadin today, ___.
.
You should visit Dr. ___ at his office ___ and 
___ to have blood tests drawn, in order to manage the dosing 
of your coumadin.  Do not restart taking coumadin until ___, 
unless instructed otherwise by Dr. ___.
.

Because you are taking Coumadin, a medication that thins your 
blood, you will need to have your blood tested regularly to make 
sure the level is correct. The INR is the name of test for the 
coumadin level.

You will also be sent home with ___ of Hearts monitor.  
Please wear this for two weeks. 

Please return to the emergency room or call ___ if you 
experience recurrent chest pain or shortness of breath.  
Additionally, seek medical attention for high fevers and chills, 
vomiting, or other symptoms that are concerning to you. 
 
Followup Instructions:
___